US05098924
a) N-[(3,4-Dimethoxyphenyl)methyl]methanesulfonamide
1-(Aminomethyl)-3,4-dimethoxybenzene (18 ml., 120 mmole, 2 eq.) was added to a solution of methanesulfonyl chloride (4.64 ml., 60 mmole, 1 eq.) in dichloromethane (30 ml., 2.0M) at 0°. Additional dichloromethane (90 ml., final concentration of 0.5M) was then added. The reaction was allowed to warm to room temperature and stirred 2 days. The solid which had precipitated was filtered off and washed with additional dichloromethane. The filtrate was washed with 0.5N HCl (2×200 ml.) and water (200 ml.), dried (MgSO4), filtered, and concentrated to give 13.93 g. of yellow solid. This material was recrystallized from ethyl acetate:hexane (1:1, 75 ml.). The crystalline product was washed with ethyl acetate:hexane (1:1) and ether and dried to give 12.41 g. of N-[(3,4-dimethoxy)methyl]methanesulfonamide; m.p. 78°-81°.

reactant | 1-(Aminomethyl)-3,4-dimethoxybenzene | 120 mmole, 18 ml, 2 eq. | NCC1=CC(=C(C=C1)OC)OC | C9H13NO2
reactant | methanesulfonyl chloride | 60 mmole, 4.64 ml, 1 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2.0M, 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | N-[(3,4-Dimethoxyphenyl)methyl]methanesulfonamide | COC=1C=C(C=CC1OC)CNS(=O)(=O)C | C10H15NO4S
